US08981085B2
A solution of (R)-tert-butyl piperidin-3-ylcarbamate (10.00 g, 49.93 mmol) and triethylamine (20.88 mL, 149.8 mmol) in CH2Cl2 (100 mL) at 0° C. (ice bath) was treated dropwise with benzyl carbonochloridate (10.54 mL, 74.90 mmol) and stirred at 0° C. After 2 hours, the mixture was diluted with CH2Cl2 (50 mL) and successively washed with ice cold 10% HCl (2×30 mL), water (1×30 mL), saturated NaHCO3 (1×30 mL), and brine (1×30 mL). The organic phase was dried (MgSO4), filtered, and concentrated in vacuo. The residue obtained was purified by flash chromatography on silica gel (Biotage Flash 60) eluting with 20% EtOAc/hexane (3 L). The fractions containing the product were pooled, concentrated in vacuo and dried under high vacuum for 18 hours to provide (R)-benzyl 3-(tert-butoxycarbonylamino)piperidine-1-carboxylate as a solid. LCMS (APCI+) m/z 335 (M+H)+.

reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 49.93 mmol, 10.00 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 149.8 mmol, 20.88 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl carbonochloridate | 74.90 mmol, 10.54 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (R)-benzyl 3-(tert-butoxycarbonylamino)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C18H26N2O4
